US05498755
To a solution of 2,2,4,4-tetramethylchroman 6-carboxylic acid (0.28 g, 1.2 mmol) in THF (5 ml) under N2 was added 1M of LiALH4 /THF (1.15 ml, 1.15 mmol). The reaction mixture was left at room temperature for overnight, followed by addition of ice-water to the reaction. The reaction mixture was extracted with ethyl acetate, the organic extracts were dried and concentrated to give 2,2,4,4-tetramethyl-chroman-6-yl methanol as a white solid. Without further purification, the alcohol was dissolved in CH2Cl2 (5 ml) and MnO2 (1.04 g, 12 mmol) was added. The resulting mixture was stirred at room temperature for 5 hours. After filtration, the resulting colorless clear solution was concentrated and purified by column chromatography (silica gel, 10% ethyl acetate in hexane) to give the title compound as a colorless oil (0.147 g, 57%). 1H NMR d 1.39 (d, 12H), 1.88 (s, 2H), 6.89 (d, J=8.4 Hz, 1H), 7.62 (dd, J1 =2.0 Hz, J2 =8.4 Hz, 1H), 7.85 (d, J=2.0 Hz, 1H), 9.86 (s, 1H).

reactant | 2,2,4,4-tetramethylchroman 6-carboxylic acid | 1.2 mmol, 0.28 g | CC1(OC2=CC=C(C=C2C(C1)(C)C)C(=O)O)C | C14H18O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.15 mmol, 1.15 ml | C1CCOC1 | C4H8O
product | 2,2,4,4-tetramethyl-chroman-6-yl methanol | CC1(OC2=CC=C(C=C2C(C1)(C)C)CO)C | C14H20O2
